US08304557B2
N-[7-(3-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide
In the same manner as in Example 18-2 and using 7-(3-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-amine (112 mg, 0.413 mmol), cyclopropanecarbonyl chloride (135 μL, 0.496 mmol) and N,N-dimethylacetamide (5 mL) as starting materials, the title compound (134 mg, 96%) was obtained as a white solid.

reactant | 7-(3-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-amine | 0.413 mmol, 112 mg | [N+](=O)([O-])C=1C=C(OC2=CC=3N(C=C2)N=C(N3)N)C=CC1 | C12H9N5O3
reactant | cyclopropanecarbonyl chloride | 0.496 mmol, 135 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-[7-(3-nitrophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 134 mg, 96% | [N+](=O)([O-])C=1C=C(OC2=CC=3N(C=C2)N=C(N3)NC(=O)C3CC3)C=CC1 | C16H13N5O4
